US07449475B2
(ii) [1-Benzyl-4-(2-fluorobenzyl)piperidin-4-yl]methanol
A stirred solution of ethyl 1-benzyl-4-(2-fluorobenzyl)piperidine-4-carboxylate (1.85 g, 5.2 mmol) in diethyl ether was cooled on ice/sodium chloride. Lithium aluminium hydride (5.8 mL, 1.0 M in diethyl ether) was added drop wise. After stirring at room temperature for 2 hrs the mixture was re-cooled on ice, quenched with water/sodium hydroxide (10%) and stirred at room temperature for 1 hrs. The solids were filtered off, and the organic layer was dried over disodium sulphate, filtrated and concentrated. The crude material was purified on silica (dichloromethane/ethanol) to give 1.0 g (61%) the subtitle compound.

reactant | ethyl 1-benzyl-4-(2-fluorobenzyl)piperidine-4-carboxylate | 5.2 mmol, 1.85 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)CC1=C(C=CC=C1)F | C22H26FNO2
reactant | Lithium aluminium hydride | 1.0 M, 5.8 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | [1-Benzyl-4-(2-fluorobenzyl)piperidin-4-yl]methanol | 1.0 g, 61% | C(C1=CC=CC=C1)N1CCC(CC1)(CC1=C(C=CC=C1)F)CO | C20H24FNO
